US04220770
A suspension of 369 g of cyanuric chloride in 1000 ml of ethyl acetate is cooled to -15° C. With good stirring, 124 g of isopropylamine are first added dropwise at -20° C. to -10° C. in the course of 21/2 hours, followed by 267 g of a 30% aqueous solution of sodium hydroxide in the course of one hour. The reaction mixture is stirred for a further 11/2 hours at the same temperature, then the organic phase is separated, washed with two 100 ml portions of water and dried over sodium sulphate. The solvent is evaporated, to yield an oil from which the 2,4-dichloro-6-isopropylamino-s-triazine precipitates in crystalline form after stirring with petroleum ether at low temperature. Melting point: 46°-47° C.

reactant | cyanuric chloride | 369 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | isopropylamine | 124 g | C(C)(C)N | C3H9N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
product | 2,4-dichloro-6-isopropylamino-s-triazine | ClC1=NC(=NC(=N1)Cl)NC(C)C | C6H8Cl2N4
